US05420135
1-(2-Methylphenyl)triazolo[4,5-c]quinoline
A solution of sodium nitrite (0.82 g, 12 mmol) in water (10 ml) was added dropwise to a stirred suspension of 3-amino-4-(2-methylphenylamino)quinoline (2.0 g,8 mmol) in 2M HCl (80 ml) at 0.5°. The solid gradually dissolved to give a pale orange solution which deposited a solid after about 1 hour. After warming to room temperature the solid was collected, washed with water and recrystallised from aqueous ethanol with charcoaling, to give the title compound as a white solid (0.55 g, 26%), m.p. 140°-142° .

reactant | sodium nitrite | 12 mmol, 0.82 g | N(=O)[O-].[Na+]
reactant | 3-amino-4-(2-methylphenylamino)quinoline | 8 mmol, 2.0 g | NC=1C=NC2=CC=CC=C2C1NC1=C(C=CC=C1)C | C16H15N3
solvent | water | 10 ml | O | H2O
solvent | HCl | 2M, 80 ml | Cl | ClH
product | 1-(2-Methylphenyl)triazolo[4,5-c]quinoline | 0.55 g, 26% | CC1=C(C=CC=C1)N1N=NC=2C=NC=3C=CC=CC3C21 | C16H12N4
